US08293735B2
To a solution of 2,7-diaza-spiro[3.5]nonane-2-carboxylic acid tert-butyl ester (70 mg, 0.309 mmol) in DCM (3 mL) were added acetyl chloride (32 μL, 0.450 mmol) and triethylamine (54 μL, 0.526 mmol). The resulting mixture was stirred at RT for 2 h. The reaction mixture was loaded onto an Isolute® SCX-2 cartridge, and washed with MeOH then eluted with 2 M NH3 in MeOH to give 7-acetyl-2,7-diaza-spiro[3.5]nonane-2-carboxylic acid tert-butyl ester. To a solution of 7-acetyl-2,7-diaza-spiro[3.5]nonane-2-carboxylic acid tert-butyl ester in DCM (3 mL) was added TFA (1 mL) and the resulting mixture was stirred at RT for 1 h. The reaction mixture was loaded onto an Isolute® SCX-2 cartridge, washed with MeOH then eluted with 2 M NH3 in MeOH to give the title compound as a colourless oil (41 mg, 79%).

reactant | 2,7-diaza-spiro[3.5]nonane-2-carboxylic acid tert-butyl ester | 0.309 mmol, 70 mg | C(C)(C)(C)OC(=O)N1CC2(C1)CCNCC2 | C12H22N2O2
reactant | acetyl chloride | 0.450 mmol, 32 μL | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 0.526 mmol, 54 μL | C(C)N(CC)CC | C6H15N
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 7-acetyl-2,7-diaza-spiro[3.5]nonane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2(C1)CCN(CC2)C(C)=O | C14H24N2O3
